* Z:\n\dev\challenges\LTSpice_circuits\inverter P-channel.asc
* Generated by LTspice 24.1.7 for Windows.
R§motor1 N007 0 8
V1 N002 0 12
V2 N008 0 SINE(2.5 2.5 3 0)
M1 N007 N004 N002 N002 AO6407
R3 N008 N009 1Meg
R4 N004 N002 1Meg
Q1 P001 N009 0 0 BC547B
R§speaker2 N006 0 8
V3 N001 0 12
V4 N010 0 SINE(2.5 2.5 3 0)
M2 N006 N003 N001 N001 AO6407
R2 N010 N011 1Meg
R5 N005 N001 1Meg
Q3 N005 N011 0 0 BC547B
Q4 N003 N005 0 0 BC547B
R6 N003 N001 1Meg
R§test N004 P001 1m
.model NPN NPN
.model PNP PNP
.lib C:\users\katzda\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\katzda\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 0.44 0.09s 100m
* Non inverting switch
* D
* S
* G
* 5~0
* Inverting switch
* D
* S
* G
* 5~0
* En hancement type - is ENabled. Just means its normally OFF.\nThis one is P channel like PNP where N has more electrons and positive voltage\nremoves them. So GND will open it and Positive voltage will increase resistance.\nZero V on signal closes NPN transistor, Gate voltage rizes which closes mosfet.\nThis setup is called "High side driver" in order to be able to block current at the \npositive terminal of the appliance, rather then switching the negative terminal.\nSwitching negative terminal is easy with NChannel mosfet, because the load is on the\npositive side. Putting load on the S terminal would cause NChannel mosfet to not fully open
.backanno
.end
